US07678795B2
(1SR,8RS)-5-(2,4-Dimethyl-phenyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2(7),3,5-triene
off-white solid. MS (ESI): 251.0 (MH+). Prepared from bicyclo[2.2.1]heptane-2,3-dione, [2-(2,4-Dimethyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | bicyclo[2.2.1]heptane-2,3-dione | C12C(C(C(CC1)C2)=O)=O | C7H8O2
reactant | [2-(2,4-Dimethyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(C=C(C=C1)C)C | C12H17O4P
reactant | hydrazine monohydrate | O.NN
product | (1SR,8RS)-5-(2,4-Dimethyl-phenyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2(7),3,5-triene | CC1=C(C=CC(=C1)C)C=1N=NC=2C3CCC(C2C1)C3 | C17H18N2
